US06800785B1
A solution of 9a-butyl-2-(methoxymethoxy)-5-methyl-8,9,9a,10-tetrahydrobenzo[a]azulen-4b(7H)-ol (32 mg, 0.1 mmol) in dichloromethane (1 mL) was treated with pyridinium chlorochromate (PCC, 32 mg, 0.15 mmol). After stirring at room temperature for 5 hours, the mixture was treated with additional PCC (5 mg, 0.023 mmol). The mixture was concentrated and purified by preparative layer chromatography on a 0.1×20×20 cm silica gel GF plate (Analtech, Newark, Del.), developing with 10% EtOAc in hexane. The UV visible product band was eluted with EtOAc and the eluant was evaporated under vacuum to provide 9a-butyl-2-(methoxymethoxy)-5-methyl-8,9,9a,10-tetrahydrobenzo[a]azulen-6(7H)-one as an oil.

reactant | 9a-butyl-2-(methoxymethoxy)-5-methyl-8,9,9a,10-tetrahydrobenzo[a]azulen-4b(7H)-ol | 0.1 mmol, 32 mg | C(CCC)C12CC3=C(C2(C(=CCCC1)C)O)C=CC(=C3)OCOC | C21H30O3
reactant | pyridinium chlorochromate | 0.15 mmol, 32 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | PCC | 0.023 mmol, 5 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 9a-butyl-2-(methoxymethoxy)-5-methyl-8,9,9a,10-tetrahydrobenzo[a]azulen-6(7H)-one | C(CCC)C12CC3=C(C2=C(C(CCC1)=O)C)C=CC(=C3)OCOC | C21H28O3
